US06204264B1
(2) N-[3-(1H-Imidazol-1-yl)propyl]-1,2-benzenediamine
10% of palladium-carbon (0.804 g) was added to a solution containing N-[3-(1H-imidazol-1-yl)propyl]-2-nitroaniline (4.000 g) in ethanol (40 ml) and stirred for 4.5 hours under a hydrogen gas atmosphere at room temperature. After the catalyst was removed out by filtration, the filtrate was concentrated, thereby yielding the entitled compound (3.503 g) as black solid.

reactant | N-[3-(1H-imidazol-1-yl)propyl]-2-nitroaniline | 4.000 g | N1(C=NC=C1)CCCNC1=C(C=CC=C1)[N+](=O)[O-] | C12H14N4O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.804 g | [C].[Pd]
product | N-[3-(1H-Imidazol-1-yl)propyl]-1,2-benzenediamine | 3.503 g | N1(C=NC=C1)CCCNC=1C(=CC=CC1)N | C12H16N4
